US04921851
In a mixture of 100 ml of water and 100 ml of tetrahydrofuran are dissolved 8.76 g of 3-bromopropylamine hydrochloride and 6.72 ml of triethylamine. After addition of 8.73 g of di-tert-butyl bicarbonate, the mixture is stirred at room temperature for 16 hours. The reaction mixture is extracted with ethyl acetate, and the extract is washed with water, 5% aqueous citric acid solution and aqueous sodium chloride solution in that order and then dried over magnesium sulfate. The solvent is then distilled off under reduced pressure to give a light yellow oil. This is dissolved in 80 ml of dimethyl sulfoxide. To the solution are added 8.12 g of ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetate and 16.56. g of potassium carbonate, and the mixture is stirred at 60° C. for 5 hours. After cooling, the reaction mixture is poured into 800 ml of ice-water and extracted with dichloromethane. The extract is washed with aqueous potassium carbonate solution and aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue is subjected to silica gel (250 g) column chromatography, elution being carried out with hexane-ethylacetate (2:3). The fractions rich in the desired compound are collected and concentrated under reduced pressure to give 5.27 g of ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetate as a yellow foamy product.

reactant | 3-bromopropylamine hydrochloride | 8.76 g | Cl.BrCCCN
reactant | triethylamine | 6.72 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetate | 8.12 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C7H9N3O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetate | 5.27 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCCNC(=O)OC(C)(C)C | C15H24N4O5S
